US04028356
In the manner given in Example 1, 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine in tetrahydrofuran can be treated with 1,4-dichloro-2-butanone under nitrogen to give 7-chloro-2-[[2-chloro-1-(2-chloroethyl)ethylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | 1,4-dichloro-2-butanone | ClCC(CCCl)=O | C4H6Cl2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-2-[[2-chloro-1-(2-chloroethyl)ethylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCl)CCCl)C2=CC=CC=C2)C1 | C19H17Cl3N4
